US06133449
(R)-Alaninol (107.3 g, 1.43M) was added dropwise with stirring to a solution of potassium tertiary butoxide (160 g, 1.43M) in tetrahydrofuran (1L). After the exothermic reaction had cooled to room temperature, 2-chloropyridine (162.4 g, 1.43M) was added dropwise. The reaction mixture was heated under reflux overnight, cooled, filtered and evaporated to an oil. The oil was dissolved in xylene (1,5L) and toluene-p-sulphonic acid (0.5 g) was added. The mixture was heated under reflux overnight. On cooling to room temperature the product crystallised to give (R)-N-(2-pyridyl)-2-aminopropanol (190 g), [α]D26 =30° (c=1 in CHCl3).

reactant | (R)-Alaninol | 1.43M, 107.3 g | N[C@H](C)CO | C3H9NO
reactant | potassium tertiary butoxide | 1.43M, 160 g | CC(C)([O-])C.[K+]
reactant | 2-chloropyridine | 1.43M, 162.4 g | ClC1=NC=CC=C1 | C5H4ClN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (R)-N-(2-pyridyl)-2-aminopropanol | 190 g | N1=C(C=CC=C1)N[C@@H](CO)C | C8H12N2O
